US08486970B2
By condensing (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide and hydroxyacetic acid using WSC and HOBt in accordance with Example 1, (3RS,4RS)—N-(benzyloxy)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-(glycoloylamino)cyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide was obtained as a colorless crystal.

reactant | (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | NC1C(CCCC1)N1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)NOCC1=CC=CC=C1)=O | C29H29Cl2N3O3
reactant | hydroxyacetic acid | OCC(=O)O | C2H4O3
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | (3RS,4RS)—N-(benzyloxy)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-(glycoloylamino)cyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | C(C1=CC=CC=C1)ONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NC(CO)=O)C1=C(C=C(C=C1)Cl)Cl | C31H31Cl2N3O5
